US07507740B2
(ii) Production of 4-phenoxy-5-(2,2-diethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine
A mixture of 4-chloro-5-(2,2-diethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine (1 g), phenol (420 mg), potassium carbonate (617 mg) and 1-methyl-2-pyrrolidone (6.74 mL) was stirred with heating at 140° C. for 6 hrs. The reaction mixture was diluted with ethyl acetate (100 mL), and washed with water (80 mL). The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=90/10→40/60) to give the title compound (1.15 g) as a yellow oil.

reactant | 4-chloro-5-(2,2-diethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine | 1 g | ClC=1C2=C(N=CN1)C=CN2CC(OCC)OCC | C12H16ClN3O2
reactant | phenol | 420 mg | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 617 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methyl-2-pyrrolidone | 6.74 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-phenoxy-5-(2,2-diethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine | 1.15 g | O(C1=CC=CC=C1)C=1C2=C(N=CN1)C=CN2CC(OCC)OCC | C18H21N3O3
